US08431695B2
Preparation of 7-{1-[(1-aminocyclopropyl)carbonyl]piperidin-4-yl}-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
A mixture 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (120 mg, 0.29 mmol), 1-(Boc-amino)-cyclopropyl-1-carboxylic acid (65 mg, 0.32 mmol), EDCl (62 mg, 0.32 mmol), HOBt (44 mg, 0.32 mmol), and N,N-diisopropylethylamine (115 μL, 0.85 mmol) in DMF (1.5 mL) was stirred at rt for 16 h. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated. To a solution of the residue in MeOH (1 mL) was added 4M HCl in dioxane (500 μL). The mixture was stirred at rt for 16 h. The mixture was concentrated and the residue was dissolved in 3:1 CHCl3/isopropanol (15 mL). The mixture was washed with saturated aqueous NaHCO3 (15 mL), brine, dried (Na2SO4) and concentrated to dryness. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to afford 11 mg (8%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 9.16 (s, 1 H), 8.10 (d, 2 H), 7.93 (s, 1 H), 7.84 (d, 1 H), 7.69 (s, 1 H), 7.54-7.64 (m, 2 H), 7.45 (t, 1 H), 7.22 (dd, 1 H), 6.68 (s, 1 H), 3.36-3.51 (m, 1 H), 3.01-3.06 (m, 2 H), 2.21-2.37 (m, 2 H), 1.98-2.09 (m, 2 H), 1.51-1.72 (m, 2 H), 0.77-0.88 (m, 2 H), 0.59-0.74 (m, 2 H); ES-MS m/z 493.36 [M+H]+, HPLC RT (min) 2.07.

reactant | 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.29 mmol, 120 mg | C1(=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H23N7
reactant | EDCl | 0.32 mmol, 62 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.32 mmol, 44 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.85 mmol, 115 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-{1-[(1-aminocyclopropyl)carbonyl]piperidin-4-yl}-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 11 mg, 8% | NC1(CC1)C(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)C2=CC=CC=C2 | C28H28N8O
